US07790724B2
b) 2-(4-Amino-3-cyclohex-1-enyl-phenyl)-ethanol
The title compound was prepared by Suzuki coupling of 2-(4-amino-phenyl)-ethanol (prepared in the previous step) and 1-cyclohexen-1-yl-boronic acid according to the procedure of Example 44, step (b). Mass spectrum (ESI, m/z): Calcd. for C14H19NO, 218.1 (M+H), found 218.1.

reactant | 2-(4-amino-phenyl)-ethanol | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | 1-cyclohexen-1-yl-boronic acid | C1(=CCCCC1)B(O)O | C6H11BO2
product | 2-(4-Amino-3-cyclohex-1-enyl-phenyl)-ethanol | NC1=C(C=C(C=C1)CCO)C1=CCCCC1 | C14H19NO
